### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define the Zarankiewicz function

### PR DESCRIPTION
**Pull request by mitchell-horner**
Defines the Zarankiewicz function $z(m, n; s, t)$ in terms of bipartite graphs.

---

- [x] depends on: #34632 

This comes from splitting up #25841 into smaller PRs.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -633,6 +633,17 @@ def overFin (hc : Fintype.card V = n) : SimpleGraph (Fin n) where
 noncomputable def overFinIso (hc : Fintype.card V = n) : G ≃g G.overFin hc := by
   use Fintype.equivFinOfCardEq hc; simp [overFin]
 
+/-- The isomorphism between `completeBipartiteGraph α β` and
+`completeBipartiteGraph (Fin s) (Fin t)` where `card α = s` and `card β = t`. -/
+noncomputable def completeBipartiteGraph.overFinIso {α β : Type*} [Fintype α] [Fintype β]
+    {s t : ℕ} (hc₁ : Fintype.card α = s) (hc₂ : Fintype.card β = t) :
+    completeBipartiteGraph α β ≃g completeBipartiteGraph (Fin s) (Fin t) where
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Let's instead more generally get that `completeBipartiteGraph a1 b1 ≃g completeBipartiteGraph a2 b2` given an equiv a1 b1 and equiv a2 b2, then your thing will just be that applied to `Fintype.equivFinOfCardEq`

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: I've also renamed it `completeBipartiteGraph.congr` - happy to rename it to something else if this doesn't fit.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+public import Mathlib.Logic.Equiv.Fin.Basic
+public import Mathlib.Tactic.Rify
+
+/-!
+# The Zarankiewicz function
+
+This file defines the **Zarankiewicz function** in terms of bipartite graphs.
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Can you move it to the declarations that need it?
```suggestion
public section
```
of which I believe there is none

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 3]
```diff
@@ -673,6 +673,16 @@ def induceUnivIso (G : SimpleGraph V) : G.induce Set.univ ≃g G where
   map_rel_iff' := by simp only [Equiv.Set.univ, Equiv.coe_fn_mk, comap_adj, Embedding.coe_subtype,
                                 implies_true]
 
+/-- The isomorphism between `completeBipartiteGraph α₁ β₁` and
+`completeBipartiteGraph α₂ β₂ ` where `α₁ ≃ α₂` and `β₁ ≃ β₂`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
`completeBipartiteGraph α₂ β₂` where `α₁ ≃ α₂` and `β₁ ≃ β₂`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 4]
```diff
@@ -673,6 +673,16 @@ def induceUnivIso (G : SimpleGraph V) : G.induce Set.univ ≃g G where
...
+def completeBipartiteGraph.congr {α₁ α₂ β₁ β₂ : Type*} (hα : α₁ ≃ α₂) (hβ : β₁ ≃ β₂) :
+    completeBipartiteGraph α₁ β₁ ≃g completeBipartiteGraph α₂ β₂ where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Can you use `V` and `W` instead of greek letters?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 5]
```diff
@@ -0,0 +1,145 @@
...
+    have h_le_sup := @le_sup _ _ _ _ _ (#·.edgeFinset) (G.map e₁.toEquiv.toEmbedding) h'
+    simp_rw [← card_coe, mem_edgeFinset] at h_le_sup ⊢
+    exact h_le_sup
+
+/-- `zarankiewicz (card V) (card W) (card α) (card β)` is at most `x` if and only if every
+`completeBipartiteGraph α β`-free bipartite graph `G` has at most `x` edges. -/
+theorem zarankiewicz_le_iff (x : ℕ) :
+    zarankiewicz (card V) (card W) (card α) (card β) ≤ x ↔
+      ∀ ⦃G : SimpleGraph (V ⊕ W)⦄ [DecidableRel G.Adj], G ≤ completeBipartiteGraph V W →
+        (completeBipartiteGraph α β).Free G → #G.edgeFinset ≤ x := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]:
```suggestion
theorem zarankiewicz_card_le_iff (x : ℕ) :
    zarankiewicz (card V) (card W) (card α) (card β) ≤ x ↔
      ∀ ⦃G : SimpleGraph (V ⊕ W)⦄ [DecidableRel G.Adj], G ≤ completeBipartiteGraph V W →
        (completeBipartiteGraph α β).Free G → #G.edgeFinset ≤ x := by
```
and can you make `zarankiewicz_le_iff` have a syntactically general LHS instead?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Sorry, I'm not sure what you mean by this? Could you maybe write the statement you would like to see in a comment?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]:
```
theorem zarankiewicz_le_iff (x : ℕ) :
    zarankiewicz a b c d ≤ x ↔
      ∀ ⦃G : SimpleGraph (Fin a ⊕ Fin b)⦄ [DecidableRel G.Adj], G ≤ completeBipartiteGraph _ _ →
        (completeBipartiteGraph (Fin c) (Fin d)).Free G → #G.edgeFinset ≤ x := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean (hunk 2 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: > of which I believe there is none

I take this to mean: leave everything private in this pull request, and selectively `public` what is needed in the downstream pull request #25841?

Could you confirm if true? And in your opinion, should I be doing this in all future pull requests?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean (hunk 5 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: I see. That is what I thought you meant, just wanted to confirm.

I'll include both `zarankiewicz_card_le_iff` and `zarankiewicz_le_iff` as you have written them above. :grin:

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: No, I don't mean private, I mean unexposed (the difference being whether the declaration or its body is inaccessible)

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Ah! I see.

I know this has probably nothing to do with you, but I think a small explanation on the [style guidelines](https://leanprover-community.github.io/contribute/style.html) about preferred usage of private/public and expose for pull requests would be helpful.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean (hunk 5 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: I added `*_card_*` variants to all 4 of those theorems.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 6]
```diff
@@ -0,0 +1,175 @@
...
+-/
+module
+
+public import Mathlib.Algebra.Order.Floor.Semiring
+public import Mathlib.Combinatorics.SimpleGraph.Bipartite
+public import Mathlib.Combinatorics.SimpleGraph.Extremal.Basic
+public import Mathlib.Combinatorics.SimpleGraph.Maps
+public import Mathlib.Data.Real.Archimedean
+public import Mathlib.Logic.Equiv.Fin.Basic
+public import Mathlib.Tactic.Rify
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Do all of these imports need to be public?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Nope. I'll keep `*.SimpleGraph.*` and `*.Floor.Semiring` public.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 7]
```diff
@@ -673,6 +673,16 @@ def induceUnivIso (G : SimpleGraph V) : G.induce Set.univ ≃g G where
...
 
+/-- The isomorphism between `completeBipartiteGraph V₁ W₁` and
+`completeBipartiteGraph V₂ W₂` where `V₁ ≃ V₂` and `W₁ ≃ W₂`. -/
+def completeBipartiteGraph.congr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
+    completeBipartiteGraph V₁ W₁ ≃g completeBipartiteGraph V₂ W₂ where
+  toFun := Sum.map hV hW
+  invFun := Sum.map hV.symm hW.symm
+  left_inv _ := by simp
+  right_inv _ := by simp
+  map_rel_iff' := by simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Don't we have sensible autoparams here?
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 8]
```diff
@@ -673,6 +673,16 @@ def induceUnivIso (G : SimpleGraph V) : G.induce Set.univ ≃g G where
   map_rel_iff' := by simp only [Equiv.Set.univ, Equiv.coe_fn_mk, comap_adj, Embedding.coe_subtype,
                                 implies_true]
 
+/-- The isomorphism between `completeBipartiteGraph V₁ W₁` and
+`completeBipartiteGraph V₂ W₂` where `V₁ ≃ V₂` and `W₁ ≃ W₂`. -/
+def completeBipartiteGraph.congr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
def completeBipartiteGraphCongr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+/-!
+# The Zarankiewicz function
+
+This file defines the **Zarankiewicz function** in terms of bipartite graphs.
+-/
+
+public section
+
+
+open Finset Fintype
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]:
```suggestion
open Finset Fintype
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 10]
```diff
@@ -0,0 +1,176 @@
...
+namespace SimpleGraph
+
+open Classical in
+/-- The **Zarankiewicz function** of natural numbers `m`, `n`, `s`, and `t` is the maximum
+number of edges in a `completeBipartiteGraph (Fin s) (Fin t)`-free bipartite graph with parts of
+size `m` and `n`.
+
+This is the *extremal graph theory* version of the **Zarankiewicz function**. -/
+noncomputable def zarankiewicz (m n s t : ℕ) : ℕ :=
+  sup { G : SimpleGraph (Fin m ⊕ Fin n) | G ≤ completeBipartiteGraph (Fin m) (Fin n)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]:
```suggestion
/-- The **Zarankiewicz function** of natural numbers `m`, `n`, `s`, and `t` is the maximum
number of edges in a `completeBipartiteGraph (Fin s) (Fin t)`-free bipartite graph with parts of
size `m` and `n`.

This is the *extremal graph theory* version of the **Zarankiewicz function**. -/
noncomputable def zarankiewicz (m n s t : ℕ) : ℕ :=
  open Classical in
  sup { G : SimpleGraph (Fin m ⊕ Fin n) | G ≤ completeBipartiteGraph (Fin m) (Fin n)
```
is safer

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 11]
```diff
@@ -0,0 +1,176 @@
...
+    ∧ (completeBipartiteGraph (Fin s) (Fin t)).Free G} (#·.edgeFinset)
+
+variable {m n s t : ℕ} {V W α β : Type*} [Fintype V] [Fintype W] [Fintype α] [Fintype β]
+
+open Classical in
+theorem zarankiewicz_of_fintypeCard_eq
+    (hm : card V = m) (hn : card W = n) (hs : card α = s) (ht : card β = t) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean:43]: I actually quite like this pattern of relating the types and natural numbers through hypotheses. Do you think you could reduce duplication below by generalising its use?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 7 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```
Fields missing: `map_rel_iff'`

could not synthesize default value for field 'left_inv' of 'RelIso' using tactics

No applicable extensionality theorem found for type V₁ ⊕ W₁

could not synthesize default value for field 'right_inv' of 'RelIso' using tacticsLean 4

No applicable extensionality theorem found for type V₂ ⊕ W₂
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean (hunk 11 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean:43]: Yes! I prefer this version.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: This can probably just `__ := hV.sumCongr hW` (replacing the first 4 fields)

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: > This can probably just `__ := hV.sumCongr hW` (replacing the first 4 fields)

I didn't know you could do that!

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 12]
```diff
@@ -677,10 +677,7 @@ def induceUnivIso (G : SimpleGraph V) : G.induce Set.univ ≃g G where
 `completeBipartiteGraph V₂ W₂` where `V₁ ≃ V₂` and `W₁ ≃ W₂`. -/
 def completeBipartiteGraphCongr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:805]:
```suggestion
@[simps]
def completeBipartiteGraphCongr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
```
or
```suggestion
@[simps!]
def completeBipartiteGraphCongr {V₁ V₂ W₁ W₂ : Type*} (hV : V₁ ≃ V₂) (hW : W₁ ≃ W₂) :
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean [hunk 13]
```diff
@@ -0,0 +1,149 @@
...
+    x < zarankiewicz m n s t ↔
+      ∃ G : SimpleGraph (V ⊕ W), ∃ _ : DecidableRel G.Adj, G ≤ completeBipartiteGraph V W ∧
+        (completeBipartiteGraph α β).Free G ∧  x < #G.edgeFinset := by
+  simp_rw [← Nat.floor_lt h]
+  exact lt_zarankiewicz_iff hm hn hs ht ⌊x⌋₊
+
+open Classical in
+/-- The Zarankiewicz function is at most the corresponding extremal number. -/
+theorem zarankiewicz_le_extremalNumber :
+    zarankiewicz m n (card α) (card β) ≤ extremalNumber (m + n) (completeBipartiteGraph α β) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Zarankiewicz.lean]: Can you do the same as above here and below?
```suggestion
    zarankiewicz m n s t ≤ extremalNumber (m + n) (completeBipartiteGraph α β) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
